US09376449B2
To a mixture of 3-(2-aminoethyl)-6-fluoro-5-methoxy-1H-indole-2-carboxylic acid (1.90 g) and tetrahydrofuran (38.0 mL) were added diisopropylethylamine (6.45 mL) and acetic anhydride (1.42 mL), followed by stirring at room temperature overnight. To the reaction mixture was added a 1 M aqueous sodium hydroxide solution (50.0 mL), followed by stirring for 1 hour and acidifying by the addition of 1 M hydrochloric acid (90.0 mL). This mixture was extracted with ethyl acetate, and the organic layer was washed with saturated brine and then dried over anhydrous sodium sulfate. The insoluble materials were separated by filtration and the filtrate was concentrated under reduced pressure to obtain 3-(2-acetamidoethyl)-6-fluoro-5-methoxy-1H-indole-2-carboxylic acid (2.21 g) as a pale yellow solid.

reactant | 3-(2-aminoethyl)-6-fluoro-5-methoxy-1H-indole-2-carboxylic acid | 1.90 g | NCCC1=C(NC2=CC(=C(C=C12)OC)F)C(=O)O | C12H13FN2O3
reactant | diisopropylethylamine | 6.45 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | acetic anhydride | 1.42 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium hydroxide | 1 M, 50.0 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 M, 90.0 mL | Cl | ClH
solvent | tetrahydrofuran | 38.0 mL | O1CCCC1 | C4H8O
product | 3-(2-acetamidoethyl)-6-fluoro-5-methoxy-1H-indole-2-carboxylic acid | 2.21 g | C(C)(=O)NCCC1=C(NC2=CC(=C(C=C12)OC)F)C(=O)O | C14H15FN2O4
